US07745475B2
3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide
Trimethylsilyl iodide (0.080 mL, 0.559 mmol) was added to a solution of 3-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide (50 mg, 0.112 mmol) in acetonitrile (2 mL) and the reaction mixture allowed to stir at RT for 18 hours. The reaction was diluted with ethyl acetate (15 mL) and quenched by the addition of saturated aqueous sodium bicarbonate solution (20 mL). The organic phase was washed with saturated aqueous thiosulphate solution (20 mL) and dried (MgSO4). The volatiles were removed under reduced pressure and the resulting oil purified by chromatography on silica, eluting with 0-100% ethyl acetate in iso-hexane, to give the title compound as a colourless solid (40 mg).

reactant | Trimethylsilyl iodide | 0.559 mmol, 0.080 mL | C[Si](C)(C)I | C3H9ISi
reactant | 3-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide | 0.112 mmol, 50 mg | COC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C1=NNC=C1)C | C24H25N5O4
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(1S)-2-Hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)-5-[4-(1H-pyrazol-3-yl)phenoxy]benzamide | 40 mg | OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC=C(C=C1)C1=NNC=C1)C | C23H23N5O4
